US05484689
Phenylglyoxal monohydrate (500 mg, 3.29 mM) and p-xylene (0.56 ml, 4.79 mM) were dissolved in dichloroethane (5 ml), titanium tetrachloride (0.9 ml, 8.2 mM) was added, and reacted at room temperature for 30 minutes. Using the same procedure as in Example 1, 2',5'-dimethylbenzoin was obtained as crystal (587.7 mg, 73.9% yield).

reactant | Phenylglyoxal monohydrate | 3.29 mM, 500 mg | O.C1(=CC=CC=C1)C(=O)C=O
reactant | p-xylene | 4.79 mM, 0.56 ml | CC=1C=CC(=CC1)C | C8H10
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
catalyst | titanium tetrachloride | 8.2 mM, 0.9 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 2',5'-dimethylbenzoin | CC1=C(C(C(C2=CC=CC=C2)=O)O)C=C(C=C1)C | C16H16O2
